US08013003B2
t-Butyl methyl-(4-oxocyclohexyl)carbamate (4.54 g, 20 mmol) and toluenesulphonylmethyl isocyanide (5.07 g, 26 mmol) were dissolved in dry tetrahydrofuran (100 ml) and cooled to 0° C. Potassium tert-butoxide (5.16 g, 46 mmol) was added slowly and the mixture was allowed to warm to 20° C. and stir for 3 hours. The reaction mixture was evaporated to dryness and partitioned between ethyl acetate (150 ml) and water (50 ml). The organic layer was separated, dried over magnesium sulfate and evaporated. The crude product was chromatographed on a silica gel eluting with ethyl acetate/hexane (66:34) to give 1.43 g of tert-butyl methyl-(4-cyanocyclohexyl)carbamate.

reactant | t-Butyl methyl-(4-oxocyclohexyl)carbamate | 20 mmol, 4.54 g | CN(C(OC(C)(C)C)=O)C1CCC(CC1)=O | C12H21NO3
reactant | toluenesulphonylmethyl isocyanide | 26 mmol, 5.07 g | C=1(C(=CC=CC1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
reactant | Potassium tert-butoxide | 46 mmol, 5.16 g | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | tert-butyl methyl-(4-cyanocyclohexyl)carbamate | 1.43 g | CN(C(OC(C)(C)C)=O)C1CCC(CC1)C#N | C13H22N2O2
